US04607030
(b) 6-(N-Chloroacetylaminomethyl)-5-hydroxy-4-chlorosulfonylindane
70 g (0.29 mole) of 6-(N-chloroacetylaminomethyl)-5-hydroxyindane are dissolved in 150 ml of chlorosulfonic acid, and the mixture is stirred for approx. 30 minutes at room temperature. The mixture is poured into ice water and the product is filtered off with suction. The initially crystalline material becomes oily after a little time and is employed in the next stage in this form without further purification.

reactant | 6-(N-chloroacetylaminomethyl)-5-hydroxyindane | 0.29 mole, 70 g | ClCC(=O)NCC1=C(C=C2CCCC2=C1)O | C12H14ClNO2
reactant | chlorosulfonic acid | 150 ml | ClS(=O)(=O)O | ClHO3S
product | 6-(N-Chloroacetylaminomethyl)-5-hydroxy-4-chlorosulfonylindane | ClCC(=O)NCC1=C(C(=C2CCCC2=C1)S(=O)(=O)Cl)O | C12H13Cl2NO4S
